US05358954
3-methyl-2,3-dihydro-2-oxo-1H-benzimidazole-1-carboxamide acid (endo-8-methyl-8-azabicyclo[3.2.1]oct-3-yl) ester (Compound 25)
80% sodium hydride (0.04 g) was added portionwise to a solution of 2,3-dihydro-2-oxo-1H-benzimidazole-1-carboxylic acid (endo-8-methyl-8azabicyclo[3.2.1]oct-3-yl ester (0.4 g) in dry DMF (10 ml). After hydrogen evolution had subsided methyl iodide (0.082 ml) was added and the reaction mixture was stirred at room temperature for 2 hrs. The solvent was removed under vacuum and the residue was taken up in methylene chloride and washed with water. The organic phase was dried over MgSO4 and concentrated to dryness. Pure title compound was obtained by flash chromatography technique (eluent: methylene chloride/methanol/32% NH4OH 90:10:1) on Silicagel. The oily base was transformed into the hydrochloride salt. 0.21 g M.p. >250° C. MS (C.I.): 316 m/e [M+H]+

reactant | sodium hydride | 0.04 g | [H-].[Na+]
reactant | 2,3-dihydro-2-oxo-1H-benzimidazole-1-carboxylic acid | O=C1NC2=C(N1C(=O)O)C=CC=C2 | C8H6N2O3
reactant | hydrogen | [H][H] | H2
reactant | methyl iodide | 0.082 ml | CI | CH3I
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-methyl-2,3-dihydro-2-oxo-1H-benzimidazole-1-carboxamide | CN1C(N(C2=C1C=CC=C2)C(=O)N)=O | C9H9N3O2
